US06927228B2
4-Dimethylamino-N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylbenzamide
In a manner similar to that of Example 37(e), by reacting 1 g (2.2 mmol) of 5-(3′-methylaminomethyl-biphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoro-acetate with 500 mg (3 mmol) of 4-dimethylaminobenzoyl chloride, and after purification, 200 mg (20%) of 4-dimethylamino-N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)-biphenyl-3-ylmethyl]-N-methylbenzamide, with a melting point of 100° C., are obtained.

reactant | 5-(3′-methylaminomethyl-biphenyl-4-ylmethyl)thiazolidine-2,4-dione trifluoro-acetate | 2.2 mmol, 1 g | FC(C(=O)O)(F)F.CNCC=1C=C(C=CC1)C1=CC=C(C=C1)CC1C(NC(S1)=O)=O
reactant | 4-dimethylaminobenzoyl chloride | 3 mmol, 500 mg | CN(C1=CC=C(C(=O)Cl)C=C1)C | C9H10ClNO
product | 4-Dimethylamino-N-[4′-(2,4-dioxothiazolidin-5-ylmethyl)biphenyl-3-ylmethyl]-N-methylbenzamide | CN(C1=CC=C(C(=O)N(C)CC=2C=C(C=CC2)C2=CC=C(C=C2)CC2C(NC(S2)=O)=O)C=C1)C | C27H27N3O3S
